US08877759B2
Preparation 19. Synthesis of 2-methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]propanenitrile
2-(4-iodo-2-pyridyl)-2-methyl-propanenitrile (78.88 mg, 0.2899 mmol) was dissolved in dioxane (1 mL) and bis(pinacolato)diboron (36.82 mg, 0.1450 mmol) and potassium acetate (28.45 mg, 0.2899 mmol) were added. The reaction mixture was degassed with 5× vacuum/nitrogen cycles then [PdCl2(dppf)].dichloromethane (7.864 mg, 0.009630 mmol) was added and the reaction heated to 90° C. for 16 hours. The reaction mixture was cooled to ambient temperature and taken onto the next step as is. (78.90 mg, assumed 100% yield). LC/MS m/z 272.99 [M+H]+

reactant | 2-(4-iodo-2-pyridyl)-2-methyl-propanenitrile | 0.2899 mmol, 78.88 mg | IC1=CC(=NC=C1)C(C#N)(C)C | C9H9IN2
reactant | bis(pinacolato)diboron | 0.1450 mmol, 36.82 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.2899 mmol, 28.45 mg | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.009630 mmol, 7.864 mg | ClCCl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]propanenitrile | 100% yield | CC(C#N)(C)C1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C15H21BN2O2
